### PR TITLE
feat(HomogeneousIdeal): generalize to homogeneous submodule

### PR DESCRIPTION
**Pull request by kckennylau**
Continuation of #30437 with permission from @jjaassoonn, which is a continuation of #9820 .

The definitions, constructions and theorems in `HomogeneousIdeal.lean` are generalized to homogeneous submodules.

Let `R` be a graded ring and `M` be a graded `R`-module. Say an `R`-submodule `N` of `M` is homogeneous if for every `x` in `N`, each projection of `x` to `M_i` is in `N`. None of this file's results depends on the grading on `R`, but we include the grading on `R` for technical reasons. We define the "homogeneous core" of a not necessarily homogeneous submodule N to be the biggest homogeneous submodule contained within N, and the "homogeneous hull" to be the smallest homogeneous submodule that contains N.

All definitions/constructions/theorems are then copied for ideals/homogeneous ideals.

The motivation of this generalization is graded quotient module. (#18716)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Module/GradedModule.lean [hunk 1]
```diff
@@ -229,4 +229,13 @@ def linearEquiv [DecidableEq ιA] [DecidableEq ιM] [GradedRing 𝓐] [DirectSum
   convert DirectSum.decompose_coe 𝓜 _
   rfl
 
+/--
+The projection map of an internally graded module.
+-/
```
Comment (mariainesdff) [inline Mathlib/Algebra/Module/GradedModule.lean:234]:
```suggestion
/-- The projection map of an internally graded module, as an additive map. -/
```

File: Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean [hunk 2]
```diff
@@ -20,9 +21,23 @@ For any `p : Submodule A M`:
 * `Submodule.IsHomogeneous ℳ p`: The property that a submodule is closed under `GradedModule.proj`.
 * `HomogeneousSubmodule 𝒜 ℳ`: The structure extending submodules which satisfy
   `Submodule.IsHomogeneous`.
+* `Submodule.homogeneousCore p 𝒜 ℳ`: The largest homogeneous submodule smaller than `p`.
+* `Submodule.homogeneousHull p 𝒜 ℳ`: The smallest homogeneous ideal larger than `p`.
```
Comment (mariainesdff) [inline Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean:25]:
```suggestion
* `Submodule.homogeneousHull p 𝒜 ℳ`: The smallest homogeneous submodule larger than `p`.
```

File: Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean [hunk 3]
```diff
@@ -20,9 +21,23 @@ For any `p : Submodule A M`:
...
+
+## Main statements
+
+* `HomogeneousSubmodule.completeLattice`: `Submodule.IsHomogeneous` is preserved by `⊥`, `⊤`, `⊔`,
+  `⊓`, `⨆`, `⨅`, and so the subtype of homogeneous ideals inherits a complete lattice structure.
```
Comment (mariainesdff) [inline Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean:30]:
``` suggestion
 `⊓`, `⨆`, `⨅`, and so the subtype of homogeneous submodules inherits a complete lattice structure.
```

File: Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean [hunk 4]
```diff
@@ -20,9 +21,23 @@ For any `p : Submodule A M`:
...
+* `Submodule.homogeneousCore.gi`: `Submodule.homogeneousCore` forms a galois insertion with
+  coercion.
+* `Submodule.homogeneousHull.gi`: `Submodule.homogeneousHull` forms a galois insertion with
+  coercion.
 
 ## Implementation notes
 
+We introduce `Submodule.homogeneousCore'` earlier than might be expected so that we can get access
```
Comment (mariainesdff) [inline Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean:38]:
```suggestion
We introduce `Submodule.homogeneousCore` earlier than might be expected so that we can get access
```

File: Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean [hunk 5]
```diff
@@ -128,3 +143,447 @@ theorem HomogeneousSubmodule.mem_toSubmodule_iff {I : HomogeneousSubmodule 𝒜
...
+    (Submodule.span A s).IsHomogeneous ℳ := by
+  rintro i r hr
+  rw [mem_span_set] at hr
+  obtain ⟨c, hc, rfl⟩ := hr
+  rw [decompose_finsuppSum, DirectSum.finsuppSum_apply, AddSubmonoidClass.coe_finsuppSum]
+  exact Submodule.finsuppSum_mem _ _ _ _ fun r hr0 ↦
+    Submodule.smul_homogeneous_element_mem_of_mem 𝒜 ℳ _ _ _
+      (h _ (hc <| by simpa)) (Submodule.subset_span (hc <| by simpa)) _
+
+/-- For any `p : Submodule A M`, not necessarily homogeneous, `p.homogeneousCore' ℳ`
```
Comment (mariainesdff) [inline Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean:187]:
```suggestion
/-- For any `p : Submodule A M`, not necessarily homogeneous, `p.homogeneousCore ℳ`
```

File: Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean [hunk 6]
```diff
@@ -128,3 +143,447 @@ theorem HomogeneousSubmodule.mem_toSubmodule_iff {I : HomogeneousSubmodule 𝒜
...
 end HomogeneousDef
+
+section IsHomogeneousSubmoduleDefs
+
+variable (𝒜 : ιA → σA) (ℳ : ιM → σM)
+variable [DecidableEq ιA] [AddMonoid ιA] [SetLike σA A] [AddSubmonoidClass σA A] [GradedRing 𝒜]
+variable [DecidableEq ιM] [SetLike σM M] [AddSubmonoidClass σM M] [Decomposition ℳ]
+variable [VAdd ιA ιM] [GradedSMul 𝒜 ℳ]
+
+theorem Submodule.isHomogeneous_iff_forall_subset (p : Submodule A M) :
```
Comment (mariainesdff) [inline Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean:154]: I suggest adding a `Submodule` namespace here.

File: Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean [hunk 7]
```diff
@@ -128,3 +143,447 @@ theorem HomogeneousSubmodule.mem_toSubmodule_iff {I : HomogeneousSubmodule 𝒜
...
+  add_mem' := by aesop
+  zero_mem' := by aesop
+  smul_mem' c x hx i := by
+    classical rw [← DirectSum.sum_support_decompose ℳ x, Finset.smul_sum, decompose_sum,
+      ← DirectSum.coeFnAddMonoidHom_apply, map_sum, Finset.sum_apply,
+      AddSubmonoidClass.coe_finset_sum]
+    exact sum_mem fun j hj ↦ p.smul_homogeneous_element_mem_of_mem 𝒜 ℳ _ _ (by aesop) (hx j) _
+  is_homogeneous' _ _ _ _ := by aesop (add norm coe_of_apply)
+
+theorem Submodule.toSubmodule_homogeneousCore_eq_span :
```
Comment (mariainesdff) [inline Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean:200]:
```suggestion
theorem Submodule.homogeneousCore_toSubmodule_eq_span : 
```

File: Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean [hunk 8]
```diff
@@ -128,3 +143,447 @@ theorem HomogeneousSubmodule.mem_toSubmodule_iff {I : HomogeneousSubmodule 𝒜
...
+  · classical rw [← DirectSum.sum_support_decompose ℳ x]
+    exact sum_mem <| by aesop
+  · rintro _ ⟨hxp, ⟨x, i, hxi⟩, rfl⟩ j
+    rw [decompose_of_mem ℳ hxi]
+    aesop (add norm coe_of_apply)
+
+theorem Submodule.homogeneousCore_mono : Monotone (Submodule.homogeneousCore 𝒜 ℳ) :=
+  fun _ _ hpq _ hx i ↦ hpq <| hx i
+
+theorem Submodule.toSubmodule_homogeneousCore_le : (p.homogeneousCore 𝒜 ℳ).toSubmodule ≤ p := by
```
Comment (mariainesdff) [inline Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean:214]:
```suggestion
theorem Submodule.homogeneousCore_toSubmodule_le : (p.homogeneousCore 𝒜 ℳ).toSubmodule ≤ p := by
```

File: Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean [hunk 9]
```diff
@@ -128,3 +143,447 @@ theorem HomogeneousSubmodule.mem_toSubmodule_iff {I : HomogeneousSubmodule 𝒜
...
+  obtain ⟨i, hx⟩ := h
+  intro j
+  rw [decompose_of_mem ℳ hx]
+  aesop (add norm coe_of_apply)
+
+theorem Submodule.le_homogeneousCore_of_homogeneous_of_le {q : Submodule A M}
+    (hq : q.IsHomogeneous ℳ) (hqp : q ≤ p) : q ≤ (p.homogeneousCore 𝒜 ℳ).toSubmodule :=
+  fun _ hx i ↦ hqp <| hq i hx
+
+theorem Submodule.IsHomogeneous.le_toSubmodule_homogeneousCore_iff {p q : Submodule A M}
```
Comment (mariainesdff) [inline Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean:230]:
```suggestion
theorem Submodule.IsHomogeneous.le_homogeneousCore_toSubmodule_iff {p q : Submodule A M}
```

Comment (mariainesdff) [reply Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean:230]: Similarly in the remaining lemmas below.

File: Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean [hunk 10]
```diff
@@ -128,3 +143,447 @@ theorem HomogeneousSubmodule.mem_toSubmodule_iff {I : HomogeneousSubmodule 𝒜
...
+theorem toSubmodule_iSup {κ : Sort*} (s : κ → HomogeneousSubmodule 𝒜 ℳ) :
+    (⨆ i, s i).toSubmodule = ⨆ i, (s i).toSubmodule := by
+  rw [iSup, toSubmodule_sSup, iSup_range]
+
+@[simp, nolint simpNF]
+theorem toSubmodule_iInf {κ : Sort*} (s : κ → HomogeneousSubmodule 𝒜 ℳ) :
+    (⨅ i, s i).toSubmodule = ⨅ i, (s i).toSubmodule := by
+  rw [iInf, toSubmodule_sInf, iInf_range]
+
+-- @[simp] -- Porting note: simp can prove this
```
Comment (mariainesdff) [inline Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean:408]: Should we keep these porting comments?

File: Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean [hunk 11]
```diff
@@ -128,3 +143,447 @@ theorem HomogeneousSubmodule.mem_toSubmodule_iff {I : HomogeneousSubmodule 𝒜
...
+
+/-- For any `p : Submodule A M`, not necessarily homogeneous, `p.homogeneousHull 𝒜 ℳ` is the
+smallest homogeneous `A`-submodule containing `p`. -/
+def Submodule.homogeneousHull : HomogeneousSubmodule 𝒜 ℳ :=
+  ⟨Submodule.span A { r : M | ∃ (i : ιM) (x : p), (DirectSum.decompose ℳ (x : M) i : M) = r }, by
+    refine Submodule.homogeneous_span 𝒜 ℳ _ fun x hx => ?_
+    obtain ⟨i, x, rfl⟩ := hx
+    apply SetLike.isHomogeneousElem_coe⟩
+
+theorem Submodule.le_toSubmodule_homogeneousHull :
```
Comment (mariainesdff) [inline Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean:507]:
```suggestion
theorem Submodule.le_homogeneousHull_toSubmodule :
```

Comment (mariainesdff) [reply Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean:507]: Same below.

File: Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean [hunk 12]
```diff
@@ -128,3 +143,447 @@ theorem HomogeneousSubmodule.mem_toSubmodule_iff {I : HomogeneousSubmodule 𝒜
...
+
+variable [DecidableEq ιA] [AddMonoid ιA] [SetLike σA A] [AddSubmonoidClass σA A] [GradedRing 𝒜]
+variable [DecidableEq ιM] [SetLike σM M] [AddSubmonoidClass σM M] [Decomposition ℳ]
+variable [VAdd ιA ιM] [GradedSMul 𝒜 ℳ]
+
+variable (p : Submodule A M)
+
+/-- For any `p : Submodule A M`, not necessarily homogeneous, `p.homogeneousHull 𝒜 ℳ` is the
+smallest homogeneous `A`-submodule containing `p`. -/
+def Submodule.homogeneousHull : HomogeneousSubmodule 𝒜 ℳ :=
```
Comment (mariainesdff) [inline Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean:501]: I would also add a Submodule namespace here.

File: Mathlib/RingTheory/GradedAlgebra/Homogeneous/Ideal.lean [hunk 13]
```diff
@@ -141,80 +145,61 @@ theorem Ideal.isHomogeneous_iff_subset_iInter :
...
+  Submodule.homogeneous_span 𝒜 𝒜 s h
 
 /-- For any `I : Ideal A`, not necessarily homogeneous, `I.homogeneousCore' 𝒜`
 is the largest homogeneous ideal of `A` contained in `I`. -/
-def Ideal.homogeneousCore : HomogeneousIdeal 𝒜 :=
-  ⟨Ideal.homogeneousCore' 𝒜 I,
-    Ideal.homogeneous_span _ _ fun _ h => by
-      have := Subtype.image_preimage_coe (setOf (SetLike.IsHomogeneousElem 𝒜)) (I : Set A)
-      exact (cast congr(_ ∈ $this) h).1⟩
+abbrev Ideal.homogeneousCore : HomogeneousIdeal 𝒜 :=
```
Comment (mariainesdff) [inline Mathlib/RingTheory/GradedAlgebra/Homogeneous/Ideal.lean:158]: I know it is not your change, but could you fix the docstring in line 156? It should refer to `I.homogeneousCore` (without the prime).

File: Mathlib/RingTheory/GradedAlgebra/Homogeneous/Ideal.lean [hunk 14]
```diff
@@ -141,80 +145,61 @@ theorem Ideal.isHomogeneous_iff_subset_iInter :
...
+  Submodule.homogeneousCore 𝒜 𝒜 I
+
+theorem Ideal.toIdeal_homogeneousCore_eq_span :
```
Comment (mariainesdff) [inline Mathlib/RingTheory/GradedAlgebra/Homogeneous/Ideal.lean:161]:
```suggestion
theorem Ideal.homogeneousCore_toIdeal_eq_span : 
```

Comment (mariainesdff) [reply Mathlib/RingTheory/GradedAlgebra/Homogeneous/Ideal.lean:161]: Also in the lemmas below.

File: Mathlib/RingTheory/GradedAlgebra/Homogeneous/Ideal.lean [hunk 15]
```diff
@@ -478,58 +411,38 @@ variable (I : Ideal A)
...
-  use ⟨r, hr⟩
-
-theorem Ideal.homogeneousHull_mono : Monotone (Ideal.homogeneousHull 𝒜) := fun I J I_le_J => by
-  apply Ideal.span_mono
-  rintro r ⟨hr1, ⟨x, hx⟩, rfl⟩
-  exact ⟨hr1, ⟨⟨x, I_le_J hx⟩, rfl⟩⟩
+abbrev Ideal.homogeneousHull : HomogeneousIdeal 𝒜 :=
+  Submodule.homogeneousHull 𝒜 𝒜 I
+
+theorem Ideal.le_toIdeal_homogeneousHull : I ≤ (Ideal.homogeneousHull 𝒜 I).toIdeal :=
```
Comment (mariainesdff) [inline Mathlib/RingTheory/GradedAlgebra/Homogeneous/Ideal.lean:417]:
```suggestion
theorem Ideal.le_homogeneousHull_toIdeal : I ≤ (Ideal.homogeneousHull 𝒜 I).toIdeal :=
```
etc
